US07459562B2
A) 2-(4-Fluorophenyl)-N-methylacetamide
To a solution of methylamine in THF (2.0 M, 5 mL, 10 mmol) was added 4-fluorophenylacetyl chloride (518 mg, 3.0 mmol) at −78° C. The reaction mixture was stirred from −78° C. to room temperature for 1 h. The solution was diluted with H2O and extracted with EtOAc. The organic layer was washed with brine and dried over MgSO4. Filtration, followed by concentration, provided the title compound (490 mg, 98%). MS(ESI+) m/z 168 (M+H)+.

reactant | methylamine | CN | CH5N
reactant | THF | 10 mmol, 2.0 M, 5 mL | C1CCOC1 | C4H8O
reactant | 4-fluorophenylacetyl chloride | 3.0 mmol, 518 mg | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | H2O | O | H2O
product | 2-(4-Fluorophenyl)-N-methylacetamide | 490 mg, 98% | FC1=CC=C(C=C1)CC(=O)NC | C9H10FNO
